US08912219B2
Step 6: 1-(4-(3-fluoro-4-((3-methyl-1,1-dioxido-6-phenyl-1,2,6-thiadiazinan-2-yl)methyl)phenyl)piperazin-1-yl)ethanone
A mixture of methyl 2-{[4-(4-acetylpiperazin-1-yl)-2-fluorophenyl]methyl}-3-methyl-1λ6,2,6-thiadiazinane-1,1-dione (200 mg, 0.52 mmol), PhI (212 mg, 1.04 mmol), Pd2(dba)3 (48 mg, 0.052 mmol), Xantphos (60 mg, 0.104 mmol), and Cs2CO3 (170 mg, 1.04 mmol) in 1,4-dioxane (3 mL) was heated at 100° C. in a microwave oven for 1 hour. The reaction mixture was concentrated under reduced pressure. The crude product was purified by preparative HPLC to afford the title compound as light yellow oil (60 mg, 25%). 1H NMR (500 MHz, CDCl3) δ 7.54 (t, 1H), 7.35-7.41 (m, 4H), 7.27-7.29 (m, 1H), 6.69 (dd, 1H), 6.54 (dd, 1H), 4.49 (d, 1H), 4.28-4.35 (m, 2H), 3.90 (td, 1H), 3.76 (t, 2H), 3.61 (t, 2H), 3.53 (td, 1H), 3.14-3.20 (m, 4H), 2.14 (s, 3H), 1.98-2.02 (m, 1H), 1.75-1.78 (m, 1H), 1.25 (d, 3H); LCMS (ESI): m/z=461.7 [M+H]+.

reactant | methyl 2-{[4-(4-acetylpiperazin-1-yl)-2-fluorophenyl]methyl}-3-methyl-1λ6,2,6-thiadiazinane-1,1-dione | 0.52 mmol, 200 mg | CC1(N(S(NCC1)(=O)=O)CC1=C(C=C(C=C1)N1CCN(CC1)C(C)=O)F)C | C18H27FN4O3S
reactant | PhI | 1.04 mmol, 212 mg | C1(=CC=CC=C1)I | C6H5I
reactant | Xantphos | 0.104 mmol, 60 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Cs2CO3 | 1.04 mmol, 170 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.052 mmol, 48 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-(4-(3-fluoro-4-((3-methyl-1,1-dioxido-6-phenyl-1,2,6-thiadiazinan-2-yl)methyl)phenyl)piperazin-1-yl)ethanone | 60 mg, 25% | FC=1C=C(C=CC1CN1S(N(CCC1C)C1=CC=CC=C1)(=O)=O)N1CCN(CC1)C(C)=O | C23H29FN4O3S
